US08236976B2
Preparation of (3-Butyl-oxiranyl)-phenyl-methanol (16)
The product was prepared by General procedure T using 50 mg (0.28 mmol) Cy2BH, 32 μL (0.28 mmol) 1-hexyne, 0.39 mL (0.78 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, 25 μL (0.25 mmol) benzaldehyde, 50 μL (0.05 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 10.6 μL (0.05 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 83% yield (43 mg, 0.21 mmol): threo-diastereomer: Colorless oil. [α]D20=−12.9 (c=2.5, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.83 (t, 3H, J=7.1 Hz), 1.22-1.41 (m, 4H), 1.46-1.56 (m, 2H), 2.31 (br s, 1H), 2.93 (dt, 1H, J=5.2, 2.0 Hz), 3.01 (dt, 1H, J=5.7, 5.4 Hz), 4.48 (d, 1H, J=2.0 Hz), and 7.27-7.38 (m, 5H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 14.0, 22.5, 28.1, 31.3, 57.7, 62.6, 74.4, 126.9, 128.8, 129.4, and 141.2 ppm; IR (neat): 3420, 3060, 2957, 2931, 2859, 1713, 1692, 1600, 1578, 1490, 1452, 1408, 1384, and 1314 cm−1; HRMS-ESI m/z 189.1275 [(M−OH)+; calcd for C13H17O: 189.1279]. erythro-diastereomer: Colorless oil. [α]D20=−10.7 (c=0.43, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.83 (t, 3H, J=7.1 Hz), 1.22-1.38 (m, 4H), 1.44-1.56 (m, 2H), 2.22 (br s, 1H), 2.94 (t, 1H, J=2.4 Hz), 3.13 (dt, 1H, J=5.8, 5.4 Hz), 4.84 (d, 1H, J=2.6 Hz), and 7.28-7.35 (m, 5H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 14.0, 22.5, 28.2, 31.3, 55.5, 61.7, 71.4, 127.2, 129.0, 129.4, and 139.6 ppm; IR (neat): 3420, 3060, 3025, 2957, 2930, 2859, 1725, 1605, 1496, 1453, 1378, 1284, 1237, and 1190 cm−1; HRMS-ESI m/z 189.1275 [(M−OH)+; calcd for C13H17O: 189.1279].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.28 mmol, 32 μL | C#CCCCC | C6H10
reactant | Et2Zn | 0.78 mmol, 2.0 M, 0.39 mL | [Zn](CC)CC
reactant | benzaldehyde | 0.25 mmol, 25 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | (+)-DIPT | 0.05 mmol, 10.6 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.05 mmol, 1.0 M, 50 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (3-Butyl-oxiranyl)-phenyl-methanol | 83% yield | C(CCC)C1C(O1)C(O)C1=CC=CC=C1 | C13H18O2
